US05658854
d) Methyl 2-benzylmercapto-3-formylaminobenzoate
27.0 g (0.586 mol) of formic acid are added dropwise to 48.6 g (0.476 mol) of acetic anhydride at 0° C. After the mixture has been stirred at 50°-60° C. for 2 h it is cooled to 0° C. and a solution of 50.0 g (0.183 mol) of methyl 3-amino-2-benzylmercaptobenzoate in 150 ml of THF is added. The reaction solution is then stirred at room temperature for 4 h. The mixture is concentrated under reduced pressure (60° C., 0.1 torr). The resulting oily residue (61.77 g) is employed in subsequent reactions without further purification (cf. Example e)).

reactant | formic acid | 0.586 mol, 27.0 g | C(=O)O | CH2O2
reactant | acetic anhydride | 0.476 mol, 48.6 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | methyl 3-amino-2-benzylmercaptobenzoate | 0.183 mol, 50.0 g | NC=1C(=C(C(=O)OC)C=CC1)SCC1=CC=CC=C1 | C15H15NO2S
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | Methyl 2-benzylmercapto-3-formylaminobenzoate | C(C1=CC=CC=C1)SC1=C(C(=O)OC)C=CC=C1NC=O | C16H15NO3S
